### PR TITLE
[Merged by Bors] - feat: Add more Summability results needed for Eisenstein series.

### PR DESCRIPTION
**Pull request by CBirkbeck**
This PR continues the work from #25393.

Original PR: https://github.com/leanprover-community/mathlib4/pull/25393

### CODE REVIEW

**Comment by CBirkbeck** [comment]
## Comments from Original PR #25393

*This section contains 2 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-06-03 13:17 UTC](https://github.com/leanprover-community/mathlib4/pull/25393#issuecomment-2935186927)):
### PR summary [953440dbe5](https://github.com/leanprover-community/mathlib4/pull/25393/commits/7265cf29e6808d93373f9835eb686def6a87d6b4)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ Int.cast_complex_isTheta_cast_real`
`+ IsBigO.comp_neg_int`
`+ abs_le_left_of_norm`
`+ abs_le_right_of_norm`
`+ linear_inv_isBigO_left`
`+ linear_inv_isBigO_right`
`+ linear_isTheta_left`
`+ linear_isTheta_right`
`+ linear_left_summable`
`+ linear_right_summable`
`+ norm_symm`
`+ summable_inv_of_isBigO_rpow_inv`
`+ summable_linear_sub_mul_linear_add`
`+ tendsto_norm_comp_cofinite_atTop_of_isClosedEmbedding`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

---

**@leanprover-community-bot-assistant** ([2025-06-09 14:07 UTC](https://github.com/leanprover-community/mathlib4/pull/25393#issuecomment-2955906428)):
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Analysis/Normed/Group/Bounded.lean [hunk 1]
```diff
@@ -139,6 +139,12 @@ theorem Filter.Tendsto.op_one_isBoundedUnder_le {f : α → E} {g : α → F} {l
     (h_op : ∀ x y, ‖op x y‖ ≤ ‖x‖ * ‖y‖) : Tendsto (fun x => op (f x) (g x)) l (𝓝 1) :=
   hf.op_one_isBoundedUnder_le' hg op ⟨1, fun x y => (one_mul ‖x‖).symm ▸ h_op x y⟩
 
+lemma tendsto_norm_comp_cofinite_atTop_of_isClosedEmbedding {X E : Type*} [TopologicalSpace X]
```
Comment (riccardobrasca) [inline Mathlib/Analysis/Normed/Group/Bounded.lean]: Can't you use some variable already in scope?

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean [hunk 2]
```diff
@@ -32,6 +31,23 @@ lemma norm_eq_max_natAbs (x : Fin 2 → ℤ) : ‖x‖ = max (x 0).natAbs (x 1).
...
 
+lemma norm_symm (x y : ℤ) : ‖![x, y]‖ = ‖![y, x]‖ := by
+  simp [EisensteinSeries.norm_eq_max_natAbs, max_comm]
+
+theorem abs_le_left_of_norm (m n : ℤ) : |n| ≤ ‖![n, m]‖ := by
+  simp only [EisensteinSeries.norm_eq_max_natAbs, Fin.isValue, Matrix.cons_val_zero,
+    Matrix.cons_val_one, Matrix.cons_val_fin_one, Nat.cast_max, le_sup_iff]
+  left
+  rw [Int.abs_eq_natAbs]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean]: Is it possible to avoid this `rfl`?

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean [hunk 3]
```diff
@@ -130,6 +146,29 @@ lemma summand_bound_of_mem_verticalStrip {k : ℝ} (hk : 0 ≤ k) (x : Fin 2 →
   exact Real.rpow_le_rpow_of_nonpos (r_pos _) (r_lower_bound_on_verticalStrip z hB hz)
     (neg_nonpos.mpr hk)
 
+lemma linear_isTheta_right (c : ℤ) (z : ℂ) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean:149]: There is not `Theta` in the statement...

**Review by riccardobrasca — COMMENTED** [review]
The diff shows a modification to `migrate_to_fork.py` that is probably accidental.

File: Mathlib/Analysis/Normed/Group/Bounded.lean (hunk 1 above)
Comment (CBirkbeck) [reply Mathlib/Analysis/Normed/Group/Bounded.lean]: Thank yes, I've made a multiplicative version now and added the to_additive flag

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean (hunk 3 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/EisensteinSeries/Summable.lean:149]: Oh its a bit hidden, but its here: `=Θ[cofinite]`

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
